US20010049445A1
A 500-ml 4-necked jacketed reactor equipped with a mechanical stirrer, a thermometer, a 50-ml dropping funnel, an argon inlet, a PT100 temperature sensor and a thermostat was charged with 33.54 g of 4-[2-(Benzo[b]thiophene-4-yloxy)-ethyl]-5-methyl-2-phenyl-oxazole (0.100 mol) and 400 ml of dichloromethane. After cooling the solution to 0° C., 30.3 ml of hydrobromic acid 62% (0.400 mol) were added dropwise within 9 min at a temperature of 0° -4° C. To the yellow biphasic mixture a solution of 3.30 g of trioxane (0.110 mol) in 40 ml of dichloromethane was added at 0-1° C. After 3 h 15.1 ml of hydrobromic acid 62% (0.200 mol) were added within 7 min at 0-1C. After 4 h additional 15.1 ml of hydrobromic acid 62% (0.200 mol) were added and the mixture was stirred over night at 0° C. After a total of 24 h the colorless bottom HBr-phase was removed through the bottom valve and extracted with 100 ml of dichloromethane. To the combined organic phases in the reactor 300 ml of sat. aqueous sodium bicarbonate solution were added at ca. 0° within 30 min. The resulting biphasic mixture was stirred for 5 min and the aqueous phase was extracted twice with 100 ml, a total of 200 ml of dichloromethane. The combined organic phases were dried (Na2SO4), rotary evaporated (45°, 600 mbar) and shortly dried (45° C., 20 mbar, 15 min). The resulting light brown residue was suspended in 200 ml of acetone and the suspension stirred for 1 h at reflux, 1 h at rt and 1 h in an ice bath. The crystals were filtered off with suction, washed with 50 ml of cold (−20° C.) acetone and dried to constant weight at 55° C. and 10 mbar for 4 h, affording 24.88 g of 4-[2-(7-Bromomethyl-benzo[b]thiophen-4-yloxy)-ethyl]-5-methyl-2-phenyl-oxazole as off-white crystals with m.p of 143-144° C.

reactant | PT100 | B([C@@H]1CCCN1C(=O)[C@H](C(C)C)N)(O)O.CS(=O)(=O)O
reactant | 4-[2-(Benzo[b]thiophene-4-yloxy)-ethyl]-5-methyl-2-phenyl-oxazole | 0.100 mol, 33.54 g | S1C2=C(C=C1)C(=CC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2 | C20H17NO2S
reactant | hydrobromic acid | 0.400 mol, 30.3 ml | Br | BrH
reactant | trioxane | 0.110 mol, 3.30 g | O1OOCCC1 | C3H6O3
reactant | hydrobromic acid | 0.200 mol, 15.1 ml | Br | BrH
reactant | hydrobromic acid | 0.200 mol, 15.1 ml | Br | BrH
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 4-[2-(7-Bromomethyl-benzo[b]thiophen-4-yloxy)-ethyl]-5-methyl-2-phenyl-oxazole | 24.88 g | BrCC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2 | C21H18BrNO2S
